US04199517
Cumylphenyl benzoate is prepared in accordance with the following procedure: one mole of cumylphenol was dissolved in 600 ml of benzene containing 1.2 moles of triethylamine in a 2-liter stirred glass reactor equipped with external heating and cooling devices. The reaction mass was cooled to and maintained at 15°-20° C. during the addition of 1.1 moles of benzoyl chloride over a period of 1.5 hours. After completion of addition, the resulting slurry was heated to and maintained at 40°-45° C. for 1 hour, and thereafter cooled to ambient temperature and filtered. The filter cake was washed with 200 ml of toluene and the combined washings and filtrate distilled to give 214.9 g (68 mole %) of a pale yellow oil having a boiling point at 0.5 mm Hg of 261°-265° C., a specific gravity at 55° C. of 1.082, and a viscosity at 55° C. of 215 cps. On standing, the oil solidified to form a white solid having a melting point of 43°-46.5° C.

reactant | cumylphenol | one mole | C(C)(C)(C1=CC=CC=C1)C1=C(C=CC=C1)O | C15H16O
reactant | benzene | 1.2 moles, 600 ml | C1=CC=CC=C1 | C6H6
reactant | benzoyl chloride | 1.1 moles | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | Cumylphenyl benzoate | C(C1=CC=CC=C1)(=O)OC1=C(C=CC=C1)C(C)(C)C1=CC=CC=C1 | C22H20O2
